US07465815B2
3-(4-Isopropylphenyl)-4,5,6-trimethyl-2,3-dihydro-1-benzofuran
Using 3-(4-isopropylphenyl)-4,5,6-trimethyl-1-benzofuran obtained in Reference Example 194, the title compound was synthesized in the same manner as in Reference Example 199. Yield 74%. Melting point: 70-71° C. (methanol).

reactant | 3-(4-isopropylphenyl)-4,5,6-trimethyl-1-benzofuran | C(C)(C)C1=CC=C(C=C1)C1=COC2=C1C(=C(C(=C2)C)C)C | C20H22O
solvent | methanol | CO | CH4O
product | 3-(4-Isopropylphenyl)-4,5,6-trimethyl-2,3-dihydro-1-benzofuran | Yield 74% | C(C)(C)C1=CC=C(C=C1)C1COC2=C1C(=C(C(=C2)C)C)C | C20H24O
